US08871946B2
1.0 g of 2,3-diaminobenzoic acid is dissolved into 20 ml of glacial acetic acid. Triethyl orthoformate (2.1 eq.) is added into the above mixture at temperature of 0° C.; and to stir it for 2 hours at temperature of 0˜5° C.; and 150 ml of water is added into it, and then to isolate and filter to produce 2-ethoxy-1H-benzimidazole-4-formic acid. The yield is about 89%. 2-ethoxy-1H-benzimidzzole-4-formic acid is added into 15 ml of thionyl chloride, and to react for 60 minutes, and after end of the reaction completely, and (L)-2-amino-1-p-nitrophenyl-1,3-propylene glycol (1.1 eq) is added into the reaction mixture under stirring for 2 hours at the room temperature, and then to filter the inorganic salt, and evaporate the solvent to dry, to obtain the final product of (L)-2-ethoxy-1H-benzimidazole-4-[N-(1-hydroxymethyl-2-p-nitrophenylhydroxyethyl)amide. The yield is about 91%. Using the same process to prepare the compounds in Table 3.

reactant | 2,3-diaminobenzoic acid | 1.0 g | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | Triethyl orthoformate | 2.1 eq. | C(OCC)(OCC)OCC | C7H16O3
solvent | water | 150 ml | O | H2O
product | 2-ethoxy-1H-benzimidazole-4-formic acid | yield is about 89% | C(C)OC1=NC2=C(N1)C=CC=C2C(=O)O | C10H10N2O3
